US07951794B2
A solution of 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one (33 mg, 82 μmol) and methylamine (0.082 mL, 2 M solution in THF) in methanol (1 mL) is stirred at 65° C. for 4 h and at rt for 18 h. The solvent is removed in vacuo and the residue is purified by prep. HPLC to give 3-[4-(2-hydroxy-3-methylamino-propoxy)-3,5-dimethyl-phenyl]-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one (4 mg) as a colourless resin; LC-MS: tR=0.88 min, [M+1]+=438.25, 1H NMR (as formate salt) (CDCl3): δ 8.56 (s, 1H), 7.60 (s, 1H), 7.45-7.30 (m, 5H), 6.85 (m, 2H), 4.60 (s br, 2H), 4.37-4.30 (m, 1H), 3.81-3.20 (m, 2H), 3.18-3.10 (m, 4H), 2.96-2.88 (m, 2H), 2.70 (s, 3H), 2.51 (s, 3H), 2.20 (s, 6H).

reactant | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one | 82 μmol, 33 mg | CC=1C=C(C=C(C1OCC1OC1)C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C | C25H26O3S
reactant | methylamine | 2 M, 0.082 mL | CN | CH5N
solvent | methanol | 1 mL | CO | CH4O
product | 3-[4-(2-hydroxy-3-methylamino-propoxy)-3,5-dimethyl-phenyl]-1-(5-methyl-4-phenyl-thiophen-2-yl)-propan-1-one | 4 mg | OC(COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)C)C)CNC | C26H31NO3S
